US07211672B2
(2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid was prepared was made following general procedure C, substituting 4-methoxybenzoyl chloride for 4-fluorobenzoyl chloride. Further elaboration to the acid was done following the same procedure as described for (±)-4-(4-{4-[(4-chloro-phenyl)-propionyl-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid.

reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | (±)-4-(4-{4-[(4-chloro-phenyl)-propionyl-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid | ClC1=CC=C(C=C1)N(C1CC(N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCCC(=O)O)C=C1)C)C(CC)=O | C30H31ClN2O5
product | (2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCCC(=O)O)C=C1)C)C1=CC=C(C=C1)Cl | C29H29ClN2O5
